delta_loaded_network - fault test
Vin A 0 DC 12
Ra A B 3.638682
Rb B C 1305.050872
Rc C A 29.954819
Rload B 0 30.113653
.op
.control
run
print v(A) v(B) v(C)
print @ra[i] @rb[i] @rc[i] @rload[i]
.endc
.end
